US05605901
Under ice cooling, 2.46 g of isobutyl chloroformate was added to 4.07 g of 2-propylamino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane and 2.02 g of triethylamine dissolved in 40 ml of chloroform, and the mixture was stirred for 1 hour. The organic layer was washed with water and dried, and the solvent was removed. The resulting crude crystals were recrystallized from ethyl acetate to obtain 3.75 g of 2-(N-propyl-N-isobutoxycarbonylamino)-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane.

reactant | isobutyl chloroformate | 2.46 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-propylamino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane | 4.07 g | C(CC)NC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C16H21N3O
reactant | triethylamine | 2.02 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(N-propyl-N-isobutoxycarbonylamino)-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane | 3.75 g | C(CC)N(C(=O)OCC(C)C)C1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C21H29N3O3
